US07384929B2
Ethyl 1-azaspiro[4.5]decan-8-one-1-carboxylate
Ethyl chloroformate (1.90 mL, 2.16 g, 19.9 mmol) was added drop-wise to a cold (0° C.), stirred solution of 1-azaspiro[4.5]decan-8-one ethylene ketal (3.00 g, 15.2 mmol), triethylamine (3.20 mL, 2.32 g, 23.0 mmol) and catalytic 4-(dimethylamino)pyridine (10 mg) in dry dichloromethane (25 mL) under a nitrogen atmosphere. The ice bath was removed and the reaction was stirred 4 h at ambient temperature and poured into saturated aqueous sodium bicarbonate (10 mL). The mixture was shaken and the organic layer drawn off. The aqueous layer was extracted with dichloromethane (25 mL), and the combined dichloromethane extracts were dried (Na2SO4) and concentrated by rotary evaporation. The residue (3.5 g) was combined with 2% aqueous sulfuric acid (50 mL) and stirred 3 h at ambient temperature. The mixture was extracted with ethyl acetate (4×20 mL), and the combined extracts were washed successively with saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride (10 mL each) and dried (Na2SO4). The residue from concentration of the dried extracts was dissolved dichloromethane (100 mL) and stirred for 1 h with silica gel (5 g). The silica gel was then removed by filtration, and the filtrate was concentrated, leaving 2.35 g (68.7%) of viscous colorless oil.

reactant | Ethyl chloroformate | 19.9 mmol, 1.90 mL, 2.16 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-azaspiro[4.5]decan-8-one ethylene ketal | 15.2 mmol, 3.00 g | C1COC2(CCC3(CCCN3)CC2)O1 | C11H19NO2
reactant | triethylamine | 23.0 mmol, 3.20 mL, 2.32 g | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Ethyl 1-azaspiro[4.5]decan-8-one-1-carboxylate | 2.35 g, 68.7% | N1(CCCC12CCC(CC2)=O)C(=O)OCC | C12H19NO3
